US07635715B2
A suspension of 4-(4-(trifluoromethyl)phenyl)-tetrahydro-2H-pyran-4-carboxylic acid (3.749 g, 13.7 mmol) and thionyl chloride (9.97 mL, 137 mmol) was heated at reflux. After 2 hours, the reaction was cooled to 23° C. and concentrated in vacuo, azeotroped with toluene (2×20 mL) and further dried on the vacuum line for 90 minutes. A solution of diethyl malonate (2.17 mL, 14.4 mmol) in ACN (50 mL) in an oven-dried round-bottomed flask, was cooled to 0° C. and treated with MgCl2 (1.30 g, 13.7 mmol), followed by TEA (3.99 mL, 28.7 mmol). The reaction was warmed to 23° C. After 2 hours and 30 minutes, a solution of the crude acid chloride in ACN (10 mL) was added, and the reaction was heated to 50° C. After 15 hours, the reaction was cooled to 23° C., diluted with EtOAc (400 mL), and washed with a 10% HCl solution (300 mL). The aqueous layer was extracted with EtOAc (300 mL). The combined organic layers were washed with brine (200 mL), dried over MgSO4, and concentrated in vacuo affording 5.50 g of diethyl 2-(4-(4-(trifluoromethyl)phenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate. MS m/e=417.2 (M+H)+.

reactant | 4-(4-(trifluoromethyl)phenyl)-tetrahydro-2H-pyran-4-carboxylic acid | 13.7 mmol, 3.749 g | FC(C1=CC=C(C=C1)C1(CCOCC1)C(=O)O)(F)F | C13H13F3O3
reactant | thionyl chloride | 137 mmol, 9.97 mL | S(=O)(Cl)Cl | Cl2OS
reactant | diethyl malonate | 14.4 mmol, 2.17 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | MgCl2 | 13.7 mmol, 1.30 g | [Mg+2].[Cl-].[Cl-]
solvent | ACN | 50 mL | C(C)#N | C2H3N
solvent | ACN | 10 mL | C(C)#N | C2H3N
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | diethyl 2-(4-(4-(trifluoromethyl)phenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | 5.50 g | FC(C1=CC=C(C=C1)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC)(F)F | C20H23F3O6
